US08247421B2
Step 2: Cis-(R)-4-(1-(tert-butoxycarbonylamino)ethyl)cyclohexyl methanesulfonate
Cis-(R)-tert-butyl 1-(4-hydroxycyclohexyl)ethylcarbamate (575 mg, 2.363 mmol) was dissolved in dichloromethane (10 mL) and cooled to 0° C. under nitrogen. Triethylamine (478.2 mg, 658.7 μL, 4.726 mmol) followed by methanesulfonylchloride (284.2 mg, 192.0 μL, 2.481 mmol) were added dropwise. The reaction mixture was stirred at room temperature for 30 minutes. The crude mixture was washed with 1M HCl, water and a saturated aqueous solution of sodium bicarbonate. The organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to give the compound as a white solid (706 mg, 93% yield).

reactant | Cis-(R)-tert-butyl 1-(4-hydroxycyclohexyl)ethylcarbamate | 2.363 mmol, 575 mg | O[C@H]1CC[C@H](CC1)[C@@H](C)NC(OC(C)(C)C)=O | C13H25NO3
reactant | Triethylamine | 4.726 mmol, 658.7 μL, 478.2 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 2.481 mmol, 192.0 μL, 284.2 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Cis-(R)-4-(1-(tert-butoxycarbonylamino)ethyl)cyclohexyl methanesulfonate | 706 mg, 93% yield | CS(=O)(=O)O[C@@H]1CC[C@@H](CC1)[C@@H](C)NC(=O)OC(C)(C)C | C14H27NO5S
